US08067590B2
7-{2-[2-Oxo-4-(pyridin-2-ylmethoxy)-2H-pyridin-1-yl]-ethyl}-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester is prepared following example 24.1 from 530 mg (2.23 mmol) 4-(pyridin-2-ylmethoxy)-1H-pyridin-2-one (preparation 22.4) and 1.06 g (2.45 mmol) 7-[2-(toluene-4-sulfonyloxy)-ethyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (preparation 7).

reactant | 4-(pyridin-2-ylmethoxy)-1H-pyridin-2-one | 2.23 mmol, 530 mg | N1=C(C=CC=C1)COC1=CC(NC=C1)=O | C11H10N2O2
reactant | 7-[2-(toluene-4-sulfonyloxy)-ethyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 2.45 mmol, 1.06 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C23H29NO5S
product | 7-{2-[2-Oxo-4-(pyridin-2-ylmethoxy)-2H-pyridin-1-yl]-ethyl}-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)CCN1C(C=C(C=C1)OCC1=NC=CC=C1)=O | C27H31N3O4
